US07989467B2
The mixture of 1-chloro-9-methoxy-5-methyl-6H-pyrido[4,3-b]carbazole (1.0 g; product known, already published) and 4-amino-2,2,6,6-tetramethylpiperidin (1.0 g) is heated at 150° C. for 21 h. Excess amino is eliminated by evaporation under reduced pressure. Water is added to the residue obtained to form a solid. This solid is filtered, washed with water, then recrystallized from xylene to yield the expected (9-methoxy-5-methyl-6H-pyrido[4,3-b]carbazol-1-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine (1.0 g, 71% yield) in the form of yellow microcrystals (melting point: 223-225° C.). NMR in agreement.

reactant | 1-chloro-9-methoxy-5-methyl-6H-pyrido[4,3-b]carbazole | ClC1=NC=CC2=C(C=3NC=4C=CC(=CC4C3C=C21)OC)C | C17H13ClN2O
reactant | 4-amino-2,2,6,6-tetramethylpiperidin | 1.0 g | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | (9-methoxy-5-methyl-6H-pyrido[4,3-b]carbazol-1-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | 1.0 g, 71% yield | COC1=CC=2C=3C=C4C(=C(C3NC2C=C1)C)C=CN=C4NC4CC(NC(C4)(C)C)(C)C | C26H32N4O
